US04472383
N-[1(R)-Butoxycarbonyl-3-phenylpropyl]-L-alanyl-N-cyclopentylglycyl-L-phenylalanine tert-butyl ester (1 g) is dissolved in 14 ml of 3.4N hydrogen chloride in ethyl acetate, followed by addition of 2 ml of acetone. Then, 10 ml of ether is added and the solvent is decanted off. The residue is dried under reduced pressure to give 0.8 g of N-[1(R)-butoxycarbonyl-3-phenylpropyl]-L-alanyl-N-cyclopentylglycyl-L-phenylalanine hydrochloride as colorless powder.

reactant | N-[1(R)-Butoxycarbonyl-3-phenylpropyl]-L-alanyl-N-cyclopentylglycyl-L-phenylalanine tert-butyl ester | 1 g | C(C)(C)(C)OC([C@@H](NC(CN(C1CCCC1)C([C@@H](N[C@H](CCC1=CC=CC=C1)C(=O)OCCCC)C)=O)=O)CC1=CC=CC=C1)=O | C37H53N3O6
reactant | acetone | 2 ml | CC(=O)C | C3H6O
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | hydrogen chloride | 3.4N, 14 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1(R)-butoxycarbonyl-3-phenylpropyl]-L-alanyl-N-cyclopentylglycyl-L-phenylalanine hydrochloride | 0.8 g | Cl.C(CCC)OC(=O)[C@@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C1CCCC1 | InChI=1S/C33H45N3O6.ClH/c1-3-4-21-42-33(41)28(20-19-25-13-7-5-8-14-25)34-24(2)31(38)36(27-17-11-12-18-27)23-30(37)35-29(32(39)40)22-26-15-9-6-10-16-26;/h5-10,13-16,24,27-29,34H,3-4,11-12,17-23H2,1-2H3,(H,35,37)(H,39,40);1H/t24-,28+,29-;/m0./s1
